US08685977B2
1-(5-chloro-2-methoxyphenyl)ethanol
To a solution of 1-(5-chloro-2-methoxyphenyl)ethanone (7.97 g, 43.1 mmol) in anhydrous tetrahydrofuran (40 mL) at 0° C. was added a 1M solution of lithium aluminium hydride In THF (14.2 mL, 14.2 mmol). After 3 hours, ethyl acetate (200 mL) was added and the mixture was washed with a 1M aqueous solution of hydrogen chloride (50 mL). The organic phase was concentrated in vacuo to afford the title compound (6.97 g, 86%)

reactant | 1-(5-chloro-2-methoxyphenyl)ethanone | 43.1 mmol, 7.97 g | ClC=1C=CC(=C(C1)C(C)=O)OC | C9H9ClO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | THF | 14.2 mmol, 14.2 mL | C1CCOC1 | C4H8O
product | 1-(5-chloro-2-methoxyphenyl)ethanol | 6.97 g, 86% | ClC=1C=CC(=C(C1)C(C)O)OC | C9H11ClO2
